US07662771B2
Add Lawesson's reagent (31.03 g, 77 mmol) to a solution of 7-[2-(5-chloro-2-isopropoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester (21.80 g, 55 mmol) in THF (550 mL) at room temperature under nitrogen. Heat the mixture at reflux for 3 hours. Remove the solvent under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:3), to afford 7-[5-(5-chloro-2-isopropoxyphenyl)thiazol-2-yl]heptanoic acid methyl ester (9.96 g, 46%).

reactant | Lawesson's reagent | 77 mmol, 31.03 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 7-[2-(5-chloro-2-isopropoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester | 55 mmol, 21.80 g | COC(CCCCCCC(NCC(=O)C1=C(C=CC(=C1)Cl)OC(C)C)=O)=O | C20H28ClNO5
solvent | THF | 550 mL | C1CCOC1 | C4H8O
product | 7-[5-(5-chloro-2-isopropoxyphenyl)thiazol-2-yl]heptanoic acid methyl ester | 9.96 g, 46% | COC(CCCCCCC=1SC(=CN1)C1=C(C=CC(=C1)Cl)OC(C)C)=O | C20H26ClNO3S
